US04102888
Step C. Preparation of 7-{2-[2-(Tetrahydro-2H-pyran-2-yl)-ethyl]-4-oxo-3-thiazolidinyl}heptanoic Acid
This compound is prepared essentially by the method as described in Example 1, Step B, except that the methyl 7-[2-(3-acetyloxyoctyl)-4-oxo-3-thiazolidinyl]heptanoate is replaced by methyl 7-{2-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-4-oxo-3-thiazolidinyl}heptanoate. After chromatographic purification on silica gel, the title compound is obtained as a viscous, pale yellow oil.

reactant | methyl 7-[2-(3-acetyloxyoctyl)-4-oxo-3-thiazolidinyl]heptanoate | C(C)(=O)OC(CCC1SCC(N1CCCCCCC(=O)OC)=O)CCCCC | C21H37NO5S
reactant | methyl 7-{2-[2-(tetrahydro-2H-pyran-2-yl)ethyl]-4-oxo-3-thiazolidinyl}heptanoate | O1C(CCCC1)CCC1SCC(N1CCCCCCC(=O)OC)=O | C18H31NO4S
product | 7-{2-[2-(Tetrahydro-2H-pyran-2-yl)-ethyl]-4-oxo-3-thiazolidinyl}heptanoic Acid | O1C(CCCC1)CCC1SCC(N1CCCCCCC(=O)O)=O | C17H29NO4S
